US05756528
Step D: Preparation of 3-(t-Butoxycarbonyl)amino-2-(RS)-aminopropionic acid methyl ester
Di-t-butyldicarbonate (16.31 g, 74.7 mmol) in methylene chloride (130 ml) was added dropwise to (RS)-2,3-diamino propionic acid methyl ester (17.42 g, 82.7 mmol) and triethylamine (46 ml, 330 mmol) in methylene chloride (2.61) at -78° C. The reaction was then stirred at 0° C. for 90 min and quenched by addition of 10% aq. KHSO4 (150 ml) . The aqueous layer was separated, and the pH adjusted to 10 with sat aq NaHCO3 and 2.5M NaOH. The aqueous solution was extracted with methylene chloride and the combined extracts were dried (Na2 SO4), and the solvent evaporated in vacuo. The residue was purified by flash chromatography (SiO2, 2.5%-8% methanol in EtOAc; gradient elution) to afford the title compound as an oil.

reactant | Di-t-butyldicarbonate | 74.7 mmol, 16.31 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (RS)-2,3-diamino propionic acid methyl ester | 82.7 mmol, 17.42 g | COC(C(CN)N)=O | C4H10N2O2
reactant | triethylamine | 330 mmol, 46 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
product | 3-(t-Butoxycarbonyl)amino-2-(RS)-aminopropionic acid methyl ester | COC(C(CNC(=O)OC(C)(C)C)N)=O | C9H18N2O4
